US05068300
52.6 g of Zn and 70 ml of ethanol are heated together with 13 g of 1,2-dibromoethane until evolution of gas ceases. A solution of 13 g of CuBr and 15.8 g of anhydrous LiBr in 70 ml of THF is added at 40° to 50° C. and the reaction mixture is stirred for 10 minutes. A hot solution of 50 g of 4,4'-tolan-dicarboxylic acid di-tert.-butyl ester in 70 ml of ethanol and 130 ml of THF is added and the mixture is heated under reflux for 72 hours. After filtration, the filtrate is concentrated by evaporation, taken up with CH2Cl2, washed twice with dilute HCl and H2O, dried and concentrated by evaporation. 46.3 g of Z-4,4'-stilbene dicarboxylic acid di-tert.-butyl ester are obtained.

reactant | 1,2-dibromoethane | 13 g | BrCCBr | C2H4Br2
reactant | LiBr | 15.8 g | [Li+].[Br-]
reactant | 4,4'-tolan-dicarboxylic acid di-tert.-butyl ester | 50 g | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C24H26O4
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | THF | 130 ml | C1CCOC1 | C4H8O
catalyst | Zn | 52.6 g | [Zn] | Zn
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | Z-4,4'-stilbene dicarboxylic acid di-tert.-butyl ester | 46.3 g | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)\C=C/C1=CC=C(C=C1)C(=O)OC(C)(C)C | C24H28O4
